US06881737B2
A mixture of N-(3-nitrophenyl)-acrylamide (1.1 g, 5.61 mmol), iron powder (1.88 g, 33.7 mmol), FeSO4 (3.12 g, 11.2 mmol), Celite® (1.0 g) and H2O (45 mL) was heated to reflux with stirring for 2 h. The reaction mixture was cooled to RT and the solution was made basic to pH 13-14 by the addition of 2N NaOH. The reaction mixture was diluted with EtOAc and water. The solution was filtered to remove the solids and the solids were washed with EtOAc. The aqueous layer was extracted three times with EtOAc (100 mL) and the combined organics were dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography using EtOAc as the solvent to give N-(3-aminophenyl)acrylamide.

reactant | N-(3-nitrophenyl)-acrylamide | 5.61 mmol, 1.1 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(C=C)=O | C9H8N2O3
reactant | NaOH | 2N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | iron | 33.7 mmol, 1.88 g | [Fe] | Fe
solvent | H2O | 45 mL | O | H2O
product | N-(3-aminophenyl)acrylamide | NC=1C=C(C=CC1)NC(C=C)=O | C9H10N2O
